US06200976B1
e. 4-[(7-bromo-4-methyl-quinoxalin-2-on-3-yl)-amino]-benzonitrile
270 mg (1 mmol) of 6-bromo-3-chloro-1-methyl-1H-quinoxalin-2-one and 240 mg (2 mmol) of 4-aminobenzonitrile are heated to 100° C. in 3 ml methanol. The precipitate is cooled to 40° C., diluted with methanol and suction filtered.

reactant | 6-bromo-3-chloro-1-methyl-1H-quinoxalin-2-one | 1 mmol, 270 mg | BrC=1C=C2N=C(C(N(C2=CC1)C)=O)Cl | C9H6BrClN2O
reactant | 4-aminobenzonitrile | 2 mmol, 240 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | methanol | 3 ml | CO | CH4O
product | 4-[(7-bromo-4-methyl-quinoxalin-2-on-3-yl)-amino]-benzonitrile | BrC1=CC=C2N(C(C(NC2=C1)=O)NC1=CC=C(C#N)C=C1)C | C16H13BrN4O
